US07348348B2
To a solution of 2-trifluoromethoxy-1-bromobenzene (0.21 mL) and 5-formyl-2-thiophene boronic acid (0.23 g) in DME (11 mL) were added Pd(OAc)2 (0.014 g) and Ph3P (0.033 g) followed by 2M sodium carbonate (1 mL) and water (1 mL). The mixture was stirred at rt for 3 h. The reaction was diluted with ethylacetate (20 mL) and washed with water and brine, and then dried (sodium sulfate). The crude product was purified by flash-chromatography using acetone-hexanes (1:4) to give the desired 5-(2-trifluoromethoxyphenyl)thiophene-2-aldehyde as an oil [MS data: m/e 273 (M+1)+]. The aldehyde (0.15 g), thus obtained, was then condensed with 2,4-thiazolidine-2,4-dione in the presence of benzoic acid and piperidine under the conditions described in EXAMPLE 5 to give the title compound 5-(5-(2-trifluoromethoxyphenyl)thienylidene)thiazolidine-2,4-dione.

reactant | 2-trifluoromethoxy-1-bromobenzene | 0.21 mL | FC(OC1=C(C=CC=C1)Br)(F)F | C7H4BrF3O
reactant | 5-formyl-2-thiophene boronic acid | 0.23 g | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | Ph3P | 0.033 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 11 mL | COCCOC | C4H10O2
solvent | ethylacetate | 20 mL | C(C)OC(C)=O | C4H8O2
catalyst | Pd(OAc)2 | 0.014 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 1 mL | O | H2O
product | 5-(2-trifluoromethoxyphenyl)thiophene-2-aldehyde | FC(OC1=C(C=CC=C1)C1=CC=C(S1)C=O)(F)F | C12H7F3O2S
